US05143910
A mixture of 3-methoxy-4-p-methoxybenzyloxybenzoic acid (2.88 g: 10 mMol.), 1-hydroxybenzotriazole (1.49 g: 1.1 Eq.), and dicyclohexylcarbodiimide (2.27 g: 1.1 Eq.) in tetrahydrofuran (100 ml) is kept at room temperature for 3 hours. To this solution is added N-methylpiperazine (2.22 ml: 2 Eq.), and the mixture is kept at room temperature overnight to give 1-(3-methoxy-4-p-methoxybenzyloxybenzoyl)-4-methylpiperazine (3.45 g). Yield: 93%.

reactant | 3-methoxy-4-p-methoxybenzyloxybenzoic acid | 10 mMol, 2.88 g | COC=1C=C(C(=O)O)C=CC1OCC1=CC=C(C=C1)OC | C16H16O5
reactant | 1-hydroxybenzotriazole | 1.49 g, 1.1 Eq. | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 2.27 g, 1.1 Eq. | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-methylpiperazine | 2.22 ml, 2 Eq. | CN1CCNCC1 | C5H12N2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(3-methoxy-4-p-methoxybenzyloxybenzoyl)-4-methylpiperazine | 3.45 g, Yield: 93% | COC=1C=C(C(=O)N2CCN(CC2)C)C=CC1OCC1=CC=C(C=C1)OC | C21H26N2O4
